US08198271B2
N-(4-t-Butoxycarbonylaminothiophen-3-yl)-5-methoxycarbonylpyridine-2-carboxylic acid amide (Reference Compound No. 2-1)
HATU (1.3 g, 3.5 mmol) was added to a solution of 3-amino-4-t-butoxycarbonylaminothiophene (Reference Compound No. 1-1, 0.68 g, 3.2 mmol), 5-methoxycarbonylpyridine-2-carboxylic acid (0.64 g, 3.5 mmol), and N-methylmorpholine (0.70 mL, 6.4 mmol) in DMF (20 mL), and then the reaction mixture was stirred at room temperature overnight. Water (0.30 L) and ethyl acetate (0.40 L) were added thereto, and the insoluble materials were filtered off to give 0.50 g of the title reference compound as a pale yellow solid. The filtrate was partitioned and the organic layer was dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and then the obtained solid was collected by filtration with ethylacetate (30 mL) to give 0.30 g of the title reference compound as a pale brown solid. (Yield 67%)

reactant | HATU | 3.5 mmol, 1.3 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-amino-4-t-butoxycarbonylaminothiophene | NC1=CSC=C1NC(=O)OC(C)(C)C | C9H14N2O2S
reactant | 5-methoxycarbonylpyridine-2-carboxylic acid | 3.5 mmol, 0.64 g | COC(=O)C=1C=CC(=NC1)C(=O)O | C8H7NO4
reactant | N-methylmorpholine | 6.4 mmol, 0.70 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 0.40 L | C(C)(=O)OCC | C4H8O2
solvent | Water | 0.30 L | O | H2O
product | N-(4-t-Butoxycarbonylaminothiophen-3-yl)-5-methoxycarbonylpyridine-2-carboxylic acid amide | Yield 67% | C(C)(C)(C)OC(=O)NC=1C(=CSC1)NC(=O)C1=NC=C(C=C1)C(=O)OC | C17H19N3O5S
